US05359098
6-[6-(4-Hydroxypiperidinyl)hexoxy]-2-(2-thienyl)-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by a method similar to Example 11 from 2',5'-dihydroxyacetophenone, 2-thiophenecarbonyl chloride, 1-bromo-6-chlorohexane, and 4-hydroxypiperidine: mp 211°-212° C.

reactant | 2',5'-dihydroxyacetophenone | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | 2-thiophenecarbonyl chloride | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 6-[6-(4-Hydroxypiperidinyl)hexoxy]-2-(2-thienyl)-4H-1-benzopyran-4-one hydrochloride | Cl.OC1CCN(CC1)CCCCCCOC=1C=CC2=C(C(C=C(O2)C=2SC=CC2)=O)C1 | InChI=1S/C24H29NO4S.ClH/c26-18-9-12-25(13-10-18)11-3-1-2-4-14-28-19-7-8-22-20(16-19)21(27)17-23(29-22)24-6-5-15-30-24;/h5-8,15-18,26H,1-4,9-14H2;1H
